US07342115B2
A mixture of 4-bromo-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic ethyl ester (274 mg, 0.73 mmol), tert-butyl-(1,1-dimethyl-prop-2-ynyloxy)-dimethyl-silane (724 mg, 0.37 mmol), Pd(PPh3)4 (84 mg, 0.082 mmol), and copper iodide (7 mg, 0.037 mmol) in diisopropylamine (8 mL) is heated at 105° C. in a sealed tube. The filtrate is concentrated in vacuo. The residue is purified by flash chromatography to give 4-[3-(tert-butyl-dimethyl-silanyloxy)-3-methyl-but-1-ynyl]-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester as a pale yellow oil. 1H NMR (CDCl3) 7.38-7.31 (m, 2H), 7.17-7.12 (m, 2H), 4.43 (q, 2H), 2.62 (s, 3H), 2.38-2.25 (m, 4H), 1.56 (s, 6H), 1.44 (t, 3H), 1.06 (t, 6H), 0.83 (s, 9H), 0.15 (s, 6H).

reactant | 4-bromo-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic ethyl ester | 0.73 mmol, 274 mg | C(C)OC(C1=C(N=C(C=C1Br)C1=C(C=CC=C1CC)CC)C)=O | C19H22BrNO2
reactant | tert-butyl-(1,1-dimethyl-prop-2-ynyloxy)-dimethyl-silane | 0.37 mmol, 724 mg | C(C)(C)(C)[Si](C)(C)OC(C#C)(C)C | C11H22OSi
solvent | diisopropylamine | 8 mL | C(C)(C)NC(C)C | C6H15N
catalyst | Pd(PPh3)4 | 0.082 mmol, 84 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.037 mmol, 7 mg | [Cu](I)I
product | 4-[3-(tert-butyl-dimethyl-silanyloxy)-3-methyl-but-1-ynyl]-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1C#CC(C)(C)O[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1CC)CC)C)=O | C30H43NO3Si
